US07208498B2
Step A. 7-Benzyl-2-[6-(trifluoromethyl)pyridin-3-yl]-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol
A mixture of 258 mg (11.2 mmol) of sodium in 10 mL of absolute ethanol was stirred at ambient temperature for 1 h. To the resultant sodium ethoxide solution was added 893 mg (3.0 mmol) of ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride in portions followed by 840 mg (3.72 mmol) of 6-(trifluoromethyl)pyridine-3-amidine hydrochloride. The reaction mixture was heated at reflux for 18 h, then concentrated in vacuo. To the residue was added ˜30 mL of 1N aqueous sodium hydroxide solution and 15 mL of water to give an insoluble solid and a yellow solution. The solid was filtered off and washed with water to provide 496 mg of the title compound. The aqueous filtrate was acidified to ˜pH 5 with concentrated hydrochloric acid and the solid precipitate was collected to give an additional 334 mg of the title compound as a bright yellow powder (72% total yield). LC-MS 387.2 (M+1).

reactant | sodium | 11.2 mmol, 258 mg | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride | 3.0 mmol, 893 mg | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | 6-(trifluoromethyl)pyridine-3-amidine hydrochloride | 3.72 mmol, 840 mg | Cl.FC(C1=CC=C(C=N1)C(=N)N)(F)F
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7-Benzyl-2-[6-(trifluoromethyl)pyridin-3-yl]-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol | 496 mg | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)O)C=1C=NC(=CC1)C(F)(F)F | C20H17F3N4O
